US06271223B1
Synthesis of sodium 1-methylpyrrole-3-sulfonate monohydrate (Compound 10)
Under an argon gas atmosphere, a solution of 9.44 g (50 mmol) of trimethylsilyl chlorosulfonate in 50 ml of carbon tetrachloride was gradually added under stirring to a solution of 18.5 g (50 mmol) of 1-methyl-2-tri-n-butylstannylpyrrole in 150 ml of carbon tetrachloride, followed by stirring at 50° C. for 30 minutes and further at room temperature for 30 minutes. To the reaction mixture, 300 ml of a saturated aqueous solution of sodium hydrogencarbonate were added, followed by stirring at room temperature for 20 minutes. The reaction mixture was allowed to separate into two layers. The water layer was collected and then washed with ethyl ether (100 ml×3 times). From the water layer, water was distilled off under reduced pressure, followed by the addition of ethanol to the residue. The resulting mixture was boiled and then subjected to hot filtration. The solvent in the filtrate was distilled off under reduced pressure, and the thus-obtained solid was washed with n-pentane (200 ml×2 times) and then dried under reduced pressure. Colorless powdery crystals (6.67 g) were obtained.

reactant | trimethylsilyl chlorosulfonate | 50 mmol, 9.44 g | ClS(=O)(=O)O[Si](C)(C)C | C3H9ClO3SSi
reactant | 1-methyl-2-tri-n-butylstannylpyrrole | 50 mmol, 18.5 g | CN1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 150 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | sodium 1-methylpyrrole-3-sulfonate monohydrate | 6.67 g | O.CN1C=C(C=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C5H7NO3S.Na.H2O/c1-6-3-2-5(4-6)10(7,8)9;;/h2-4H,1H3,(H,7,8,9);;1H2/q;+1;/p-1
